US06133271
Following the procedure of Example 97, the reaction of pyrazole with 2-chloro-6-nitro-4-benzylamino-thieno-[2,3-d]-pyrimidine gives 2-pyrazol-1-yl)-6-nitro-4-benzylamino-thieno-[2,3-d]-pyrimidine. 57-

reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | 2-chloro-6-nitro-4-benzylamino-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)[N+](=O)[O-])NCC2=CC=CC=C2 | C13H9ClN4O2S
product | 6-nitro-4-benzylamino-thieno-[2,3-d]-pyrimidine | [N+](=O)([O-])C1=CC2=C(N=CN=C2NCC2=CC=CC=C2)S1 | C13H10N4O2S
